US05914339
5-(2-{tert-Butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-ethyl ester
To a stirred solution of 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid diethyl ester hydrochloride salt (5.0 g, 9.72 mmol), and THF (90 mL) was added i-Pr2NEt (4.23 mL, 3.14 g, 24.3 mmol) and (Boc)2O (2.12 g, 9.72 mmol). After 6 h, an additional portion of (Boc)2O (200 mg, 0.92 mmol) is added. After a total of 22 h, the solution was quenched with 10 mL of sat. aq. NaHCO3, and extracted with 3×100 mL Et2O. The combined organics were washed with 1×150 mL of brine, dried over MgSO4, filtered and concentrated to a yellow oil. Flash chromatography on silica gel, eluting with hexanes/EtOAc (2/1) gave 5.07 g (90%) of product as a sticky, off-white solid; 1H NMR (300 MHz, CDCl3): δ 1.22 (d, J=6.9 Hz, 3H), 1.30-1.47 (m, 15H), 2.47-2.54(m, 1H), 2.57-2.70 (m, 1H), 3.05-3.15 (m, 1H), 3.46-3.68 (m, 1H), 4.08-4.18 (m, 1H), 4.29-4.42 (m, 4H), 4.75 (brd, J=8.6 Hz, 1H), 5.51 (brs, 1H), 6.55-6.88 (complexm, 4H), 7.20-7.44 (m, 3H); MS (ES) m/z (relative intensity): 578 (M+, 1), 504 (20), 336 (60), 298 (20), 198 (100), 180 (40).

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid diethyl ester hydrochloride salt | 9.72 mmol, 5.0 g | Cl.C(C)OC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OCC
reactant | i-Pr2NEt | 24.3 mmol, 4.23 mL, 3.14 g | CCN(C(C)C)C(C)C | C8H19N
reactant | (Boc)2O | 9.72 mmol, 2.12 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (Boc)2O | 0.92 mmol, 200 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | 5-(2-{tert-Butoxycarbonyl-[2-(3-chloro-phenyl)-2-hydroxy-ethyl]-amino}-propyl)-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-ethyl ester | 5.07 g, 90% | C(C)OC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)N(CC(O)C2=CC(=CC=C2)Cl)C(=O)OC(C)(C)C)C(=O)OCC | C29H36ClNO9
